US09227971B2
Step 1: Preparation of 1-(5-bromopyridin-2-yl)cyclobutanol
To a solution of 2,5-dibromopyridine (4.74 g, 20.0 mmol) in toluene (200 mL) was added n-BuLi (1.2 eq) dropwise at −50° C. The mixture was stirred at that temperature for 40 min, then cooled to −78° C. before cyclobutanone (1.82 g, 26.0 mmol) was added dropwise. The reaction mixture was stirred at −78° C. for 1 h, then warmed to 0° C. and quenched with 40 mL of NH4Cl (sat.). The organic layer was separated and concentrated. The crude product was purified by a SiO2 column (0-40% EtOAc/Hexanes, Rf=0.7 in 50% EtOAc) to afford the titled compound as a red oil (3.11 g).

reactant | 2,5-dibromopyridine | 20.0 mmol, 4.74 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | n-BuLi | 1.2 eq | [Li]CCCC
reactant | cyclobutanone | 26.0 mmol, 1.82 g | C1(CCC1)=O | C4H6O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(5-bromopyridin-2-yl)cyclobutanol | 3.11 g | BrC=1C=CC(=NC1)C1(CCC1)O | C9H10BrNO
